US06777432B1
[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester
A suspension of 6-bromo-N-(4-fluoro-phenyl)nicotinamide (1.0 g, 3.4 mmol), methyl glycolate (1.6 mL, 19 mmol), and potassium tert-butoxide (1.5 g, 10 13.6 mmol) in THF (10 mL) was heated in a sealed tube at 70° C. After 3 h the reaction mixture was poured onto ice and the solids isolated by filtration. Purification on silica gel by column chromatography using 30% ethyl acetate in hexanes gave 0.68 g (65%) of the titled product as a white solid:

reactant | 6-bromo-N-(4-fluoro-phenyl)nicotinamide | 3.4 mmol, 1.0 g | BrC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8BrFN2O
reactant | methyl glycolate | 19 mmol, 1.6 mL | C(CO)(=O)OC | C3H6O3
reactant | potassium tert-butoxide | 13.6 mmol, 1.5 g | CC(C)([O-])C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester | 0.68 g, 65% | COC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C15H13FN2O4
